US06586421B2
Preparation of ethyl (9,10-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetate
TFA (10.5 mL, 136 mmol) was added to a solution of tert-butyl 9,10-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (3.0 g, 6.8 mmol) in CH2Cl2 (70 mL). After 5 h, the reaction was made basic with 10% aqueous NaOH and extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with brine, dried over Na2SO4, decanted, and concentrated to give 2.4 g of the crude yellow oil: 1H NMR (300 MHz, CDCl3) δ 7.16 (d, J=8.7 Hz, 1H), 6.97 (d, J=8.7 Hz, 1H), 4.75 (s, 2H), 4.19 (q, J=7.1 Hz, 2H), 3.45 (m, 2H), 3.10 (t, J=5.1 Hz, 4H), 2.87 (m, 2H), 2.28 (br s, 1H) 1.25 (m, 3H); IR (diffuse reflectance) 2979, 2958, 2939, 2904, 2837, 2816, 2797, 2766, 2644, 1744, 1449, 1372, 1279, 1204, 1160 cm−1; MS (EI) m/z 340 (M+), 305, 300, 298, 270, 226, 224, 154, 149, 127; HRMS (FAB) calcd for C16H18CL2N2O2+H 341.0823, found 341.0818.

reactant | TFA | 136 mmol, 10.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 9,10-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 6.8 mmol, 3.0 g | ClC1=C(C=2C3=C(N(C2C=C1)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | ethyl (9,10-dichloro-2,3,4,5-tetrahydroazepino[4,5-b]indol-6(1H)-yl)acetate | 2.4 g | ClC1=C(C=2C3=C(N(C2C=C1)CC(=O)OCC)CCNCC3)Cl | C16H18Cl2N2O2
